US05317016
To a solution of (2S,4S)-1-p-methoxybenzyloxycarbonyl-2-p-methoxybenzyloxycarbonylsulfamoylaminomethyl-4-tritylthiopyrrolidine (2.35 g: 3.13 mmole) in a mixture of dichloromethane (60 ml) and methanol (30 ml), a solution of pyridine (0.38 ml: 4.75 mmole: 1.5 eq.) and silver nitrate (0.80 g: 1.5 eq.) in water (2 ml) is added under ice cooling. The mixture is stirred for 10 minutes. The reaction mixture is poured into water and extracted with dichloromethane. The extract is dried over magnesium sulfate and filtered. Hydrogen sulfide is passed through the filtrate and the resulting precipitate is filtered off. The filtrate is concentrated in vacuo and the residue is purified by silica gel column chromatography to give (2S,4S)-1-p-methoxybenzyloxycarbonyl-2-p-methoxybenzyloxycarbonylsulfamoylaminomethyl-4-mercaptopyrrolidine (1.56 g). Yield: 92.4%. NMR δ(CDCl3) ppm: 2.42 to 2.58(m, 1H), 3.80(s, 6H), 5.08, 5.02(ABq, J=12 Hz, 2H), 5.12, 5.07(ABq, J=16 Hz, 2H). IR ν (CHCl3)cm-1 : 3380, 1740, 1685, 1610.

reactant | (2S,4S)-1-p-methoxybenzyloxycarbonyl-2-p-methoxybenzyloxycarbonylsulfamoylaminomethyl-4-tritylthiopyrrolidine | 3.13 mmole, 2.35 g | COC1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CNS(NC(=O)OCC2=CC=C(C=C2)OC)(=O)=O)C=C1 | C42H43N3O8S2
reactant | pyridine | 4.75 mmole, 0.38 ml, 1.5 eq. | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
catalyst | silver nitrate | 0.80 g, 1.5 eq. | [N+](=O)([O-])[O-].[Ag+]
product | (2S,4S)-1-p-methoxybenzyloxycarbonyl-2-p-methoxybenzyloxycarbonylsulfamoylaminomethyl-4-mercaptopyrrolidine | 1.56 g, Yield: 92.4% | COC1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)S)CNS(NC(=O)OCC2=CC=C(C=C2)OC)(=O)=O)C=C1 | C23H29N3O8S2
